US04370343
Methyl 2-(7,8-Dibromohexadecyl)-acrylate:
The crude dibromo acid, 2-(7,8-dibromohexadecyl)-acrylic acid is dissolved in 50 ml of methanol and 5 ml of boron trifluoride methanol solution is added. The solution is heated under reflux for 6 hours. The solution is concentrated to 1/2 volume and the acid is neutralized with saturated NaHCO3 solution to about pH 7. The oily material is extracted with ether, washed with water and dried over Na2SO4. The ether solvent is removed under reduced pressure to give 4.80 g of crude product, methyl 2-(7,8-dibromohexadecyl)-acrylate.

reactant | 2-(7,8-dibromohexadecyl)-acrylic acid | BrC(CCCCCCC(C(=O)O)=C)C(CCCCCCCC)Br | C19H34Br2O2
reactant | boron trifluoride methanol | 5 ml | CO.B(F)(F)F
solvent | methanol | 50 ml | CO | CH4O
product | Methyl 2-(7,8-Dibromohexadecyl)-acrylate | 4.80 g | BrC(CCCCCCC(C(=O)OC)=C)C(CCCCCCCC)Br | C20H36Br2O2
